US05352734
Preparation of 1,3-Bis(nonylphenoxy)-2-propanol
To a five neck, two liter round bottom flask, equipped with an addition funnel, thermometer, nitrogen dispersant tube, mechanical stirrer, and a decanting head with a water-cooled condenser, were added 300 milliliters of cyclohexane and 451.7 grams (2.05 mole) of nonylphenol. The solution was then heated to reflux and 58.9 grams (1.05 mole) of potassium hydroxide in 60 milliliters of water was slowly added via the addition funnel. After essentially all the water was recovered in the decanting head (60 milliliter+19 milliliters formed), the reaction was cooled to 40° C., and 92.5 grams (1.00 mole) of epichlorohydrin was slowly added. During the addition, the reaction temperature was maintained below 60° C. by controlling the rate of epichlorohydrin addition. After all the epichlorohydrin was added, the solution was allowed to stir for one hour, and then brought to reflux for an additional three hours. The reaction mixture was then filtered under vacuum through a steam-jacketed Buchner funnel to remove the potassium chloride formed as a by-product. The filtration process was performed a total of three times to remove the majority of the salts. The reaction mixture was then placed in a one liter round bottom flask, and the remaining cyclohexane and unreacted nonylphenol were recovered by distillation, first at atmospheric pressure, then under vacuum at 0.2 mm Hg. The kettle temperature was not allowed to exceed 180° C. during the distillation to prevent discoloration of the product. The concentrated solution was then refiltered to give 275 grams of a pale-yellow liquid. End-group MW analysis gave a molecular weight of 459.7 (theoretical MW=496.8). Ir and nmr spectra were identical to previously recorded spectra for the compound.

reactant | cyclohexane | 300 milliliters | C1CCCCC1 | C6H12
reactant | nonylphenol | 2.05 mole, 451.7 grams | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | potassium hydroxide | 1.05 mole, 58.9 grams | [OH-].[K+]
reactant | epichlorohydrin | 1.00 mole, 92.5 grams | C(Cl)C1CO1 | C3H5ClO
reactant | water | 60 milliliters | O | H2O
product | 1,3-Bis(nonylphenoxy)-2-propanol | 275 grams | C(CCCCCCCC)C1=C(OCC(COC2=C(C=CC=C2)CCCCCCCCC)O)C=CC=C1 | C33H52O3
